US06787560B2
3-(tert-Butyldimethylsiloxymethyl)-benzylphthalimide
A solution of diisopropyl azodicarboxylate (7.41 g, 36.6 mmol) in THF (23 mL) was added dropwise to a suspension of 3-(tert-butyldimethylsiloxymethyl)-benzyl alcohol (9.25 g, 36.6 mmol), phthalimide (5.39 g, 36.6 mmol) and tripheylphosphine (9.61 g, 36.6 mmol) in THF (50 mL) at room temperature, and the resulting mixture was stirred for 3 hours. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with diethyl ether and stirred at room temperature for 30 minutes. The reaction solution was filtered and the filtrate was concentrated under reduced pressure. The concentration residue was purified by the use of a silica gel column (silica gel 500 mL; hexane−ethyl acetate=10/1−7/1) to obtain the title compound (11.93 g, 85%) as a white solid.

reactant | diisopropyl azodicarboxylate | 36.6 mmol, 7.41 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 3-(tert-butyldimethylsiloxymethyl)-benzyl alcohol | 36.6 mmol, 9.25 g | O([Si](C)(C)C(C)(C)C)CC=1C=C(CO)C=CC1 | C14H24O2Si
reactant | phthalimide | 36.6 mmol, 5.39 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | tripheylphosphine | 36.6 mmol, 9.61 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 23 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(tert-Butyldimethylsiloxymethyl)-benzylphthalimide | 11.93 g, 85% | O([Si](C)(C)C(C)(C)C)CC=1C=C(CC2=C3C(C(=O)NC3=O)=CC=C2)C=CC1 | C22H27NO3Si
